US07429565B2
[2-Ethyl-4-(6-ethyl-4-hydroxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-but-2-enyl]-phosphonic acid
A solution of 6-(3-bromomethyl-pent-2-enyl)-5-ethyl-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (32 mg, 0.070 mmol) in trimethylphosphite (0.8 mL) was heated at 110° C. After 2 hrs the reaction was complete. The reaction was cooled to room temperature and the excess trimethylphosphite was removed in vacuo. The crude material was used in the next step without further purification. The crude product of the Arbuzov reaction was dissolved in MeCN (0.8 mL). Trimethylsilyl bromide (108.0 mg, 0.706 mmol) was added and the reaction was stirred at room temperature. After 2 hrs a second batch of trimethysilyl bromide (108.0 mg, 0.706 mmol) was added. After 3 hrs the reaction was quenched with MeOH (2 mL). The solvents were evaporated in vacuo and the crude material was purified by RP-HPLC (eluent: water/MeCN). The product-containing fractions were combined and lyophilized to yield 15.7 mg (63%) of the product. 1H NMR (300 MHz, DMSO-d6): δ=0.98-1.09 (m, 6H), 2.10 (s, 3H), 2.30 (m, 2H), 2.64 (q, J=7.5 Hz, 2H), 3.38 (m, 4H), 5.03 (m, 1H), 5.25 (s, 2H) ppm; 31P NMR (121 MHz, DMSO-d6): δ=22.26 ppm; MS=355 [M++1].

reactant | 6-(3-bromomethyl-pent-2-enyl)-5-ethyl-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.070 mmol, 32 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)CC)CC | C22H33BrO3Si
reactant | Trimethylsilyl bromide | 0.706 mmol, 108.0 mg | C[Si](C)(C)Br | C3H9BrSi
reactant | trimethysilyl bromide | 0.706 mmol, 108.0 mg | C[Si](C)(C)Br | C3H9BrSi
reactant | trimethylphosphite | 0.8 mL | COP(OC)OC | C3H9O3P
solvent | MeCN | 0.8 mL | CC#N | C2H3N
product | [2-Ethyl-4-(6-ethyl-4-hydroxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-but-2-enyl]-phosphonic acid | 15.7 mg, 63% | C(C)C(CP(O)(O)=O)=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)O | C17H23O6P
